US08710043B2
Step 3. (S)-(3-Methylpyridin-2-yl)(4-(trifluoromethyl)phenyl)methanamine Hydrochloride
A solution of (S)-2-methyl-N—((S)-(3-methylpyridin-2-yl)(4-(trifluoro-methyl)phenyl)methyl)propane-2-sulfinamide (0.355 g, 0.958 mmol) in MeOH (10 mL) was treated with hydrogen chloride, 4.0 M solution in 1,4-dioxane (0.6 mL, 2.400 mmol) and stirred at rt. The reaction was concentrated on the rotary evaporator resulting in a gummy residue. The residue (S)-(3-methylpyridin-2-yl)-(4-(trifluoromethyl)phenyl)methanamine hydrochloride was used in the next steps without further purification.

reactant | (S)-2-methyl-N—((S)-(3-methylpyridin-2-yl)(4-(trifluoro-methyl)phenyl)methyl)propane-2-sulfinamide | 0.958 mmol, 0.355 g | CC(C)(C)[S@](=O)N[C@@H](C1=CC=C(C=C1)C(F)(F)F)C1=NC=CC=C1C | C18H21F3N2OS
reactant | hydrogen chloride | Cl | ClH
reactant | 1,4-dioxane | 2.400 mmol, 0.6 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 10 mL | CO | CH4O
product | (S)-(3-Methylpyridin-2-yl)(4-(trifluoromethyl)phenyl)methanamine Hydrochloride | Cl.CC=1C(=NC=CC1)[C@@H](N)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C14H13F3N2.ClH/c1-9-3-2-8-19-13(9)12(18)10-4-6-11(7-5-10)14(15,16)17;/h2-8,12H,18H2,1H3;1H/t12-;/m0./s1
